US09359367B2
Step 3: (R)-4-(4-(3-cyanocyclopent-2-en-1-yl)piperazin-1-yl)-2-fluoro-N-methylbenzamide
To a mixture of (R)-3-(piperazin-1-yl)cyclopent-1-enecarbonitrile (0.500 g, 2.82 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (XANTPHOS) (0.326 g, 0.564 mmol), palladium (II) acetate (Pd(OAc)2) (63.3 mg, 0.282 mmol) and cesium carbonate (1.838 g, 5.64 mmol) in toluene (15 ml) was added 4-bromo-2-fluoro-N-methylbenzamide (WO2006064251, 0.500 g, 2.82 mmol). The reaction mixture was heated to 110° C. for 16 h. The progress of the reaction was monitored by TLC. The reaction mixture was cooled to 25° C. and filtered through celite. The filtrated was concentrated under reduced pressure to obtain a crude product, which was purified by column chromatography over silica gel (100-200 mesh) using 1-5% methanol in dichloromethane as an eluent to obtain the title compound (0.270 g, 29.1%).

reactant | (R)-3-(piperazin-1-yl)cyclopent-1-enecarbonitrile | 2.82 mmol, 0.500 g | N1(CCNCC1)[C@H]1C=C(CC1)C#N | C10H15N3
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.564 mmol, 0.326 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 5.64 mmol, 1.838 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromo-2-fluoro-N-methylbenzamide | 2.82 mmol, 0.500 g | BrC1=CC(=C(C(=O)NC)C=C1)F | C8H7BrFNO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.282 mmol, 63.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-4-(4-(3-cyanocyclopent-2-en-1-yl)piperazin-1-yl)-2-fluoro-N-methylbenzamide | 0.270 g, 29.1% | C(#N)C1=C[C@@H](CC1)N1CCN(CC1)C1=CC(=C(C(=O)NC)C=C1)F | C18H21FN4O
